US05102878
A solution of 1-(2-diethoxyphosphorylacetyl)-2-ethylpiperidine (0.99 g) in tetrahydrofuran (1.8 ml) was added dropwise to a suspension of sodium hydride (60%, 0.14 g) in tetrahydrofuran (4.5 ml) at 23° to 25° C. After being stirred at 24° C. for 30 minutes, 2-(4-pyridyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (0.63 g) was added to the mixture and then stirred at room temperature for 1 hour. The reaction mixture was poured into aqueous potassium carbonate solution and extracted with ethyl acetate (×2). The combined extracts were washed with saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (25 g) with a mixture of chloroform and methanol (100:1) as an eluent. The fractions containing objective compound were combined and evaporated in vacuo to give crystals. This was recrystallized from a mixture of ethanol and water (1:1) to give 1-[3-{2-(4-pyridyl)pyrazolo[1,5-a]pyridin-3-yl}acryloyl]-2-ethylpiperidine (trans isomer) (0.38 g).

reactant | 1-(2-diethoxyphosphorylacetyl)-2-ethylpiperidine | 0.99 g | C(C)OP(=O)(OCC)CC(=O)N1C(CCCC1)CC | C13H26NO4P
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | 2-(4-pyridyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.63 g | N1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C=O | C13H9N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 1.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
product | 1-[3-{2-(4-pyridyl)pyrazolo[1,5-a]pyridin-3-yl}acryloyl]-2-ethylpiperidine | 0.38 g | N1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1C(CCCC1)CC | C22H24N4O
